US07378409B2
A solution of benzyl ((7R,8S)-7-(isopropylthiomethyl)-1,4-dioxa-spiro[4.5]dec-8-yl)-carbamate (2.72 g, 7.16 mmol) in i-PrOH (60 ml) was treated with a solution of Oxone® (8.8 g, 14 mmol) in water (30 ml) and stirred at room temperature for 1 hour. The mixture is diluted with water and extracted into CH2Cl2. The extracts were washed with water, brine and the solvent removed under vacuum. The residue is chromatographed on silica gel (10-50% Ethyl acetate/hexane) to give 2.3 g of benzyl ((7R,8S)-7-(isopropylsulfonylmethyl)-1,4-dioxa-spiro[4.5]dec-8-yl)-carbamate.

reactant | benzyl ((7R,8S)-7-(isopropylthiomethyl)-1,4-dioxa-spiro[4.5]dec-8-yl)-carbamate | 7.16 mmol, 2.72 g | C(C)(C)SC[C@@H]1CC2(OCCO2)CC[C@@H]1NC(OCC1=CC=CC=C1)=O | C20H29NO4S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | i-PrOH | 60 ml | CC(C)O | C3H8O
solvent | water | 30 ml | O | H2O
product | benzyl ((7R,8S)-7-(isopropylsulfonylmethyl)-1,4-dioxa-spiro[4.5]dec-8-yl)-carbamate | 2.3 g | C(C)(C)S(=O)(=O)C[C@@H]1CC2(OCCO2)CC[C@@H]1NC(OCC1=CC=CC=C1)=O | C20H29NO6S
